US06337328B1
(S,S)-Iiydroxybupropion: To a solution of (R)-3′-chloro-2-hydroxyl-propiophenone (300 mg) in CH2Cl2 (6 mL) at −78° C. was added trifluoromethanesulfonic anhydride (0.5 g), followed by addition of 2,6-lutidine (0.26 g). The reaction mixture was allowed to warm to −40° C. and stirred at this temperature for 40 minutes. 2-Amine-2-methyl-1-propanol (0.4 g, 2.5 eq) was added, and stilTed for 2 hours at −40° C. The reaction mixture was warmed to room temperature and stirred overnight. It was extracted with CH2Cl2 (10 mL). The extract was washed with NaHCO3, water, and brine, concentrated to give a residue. The final product was purified by chromatography eluted with CH3CN (180 mg, e.e.>99%). 1H NMR (CDCl3) δ0.78 (d, 3H), 1.1 (s, 3H), 1.4 (s, 3H), 3.2 (q, 1H), 3:4 (d, 1H), 3.8 (d, 2H), 7.2-7.65 (m, 4H). [α]=+66°(c=1, EtOH). (S,S)-hydroxybupropion free base was treated with HCl in diethyl ether to give its HCl salt. [α]=+30.6°(c=1, EtOH). 1H NMR (DMSO-d6) δ1.0 (d, 3H), 1.32 (s, 3H), 1.56 (s, 3H), 3.4 (s, 1H), 3.4 (d, 1H), 4.0 (d, 1H), 7.5 (m, 5H), 8.8 (s, 1H), 10.1 (s, 1H). ee 99.4% as determined by HPLC with chiral column, ChiralCEl GD. 4.6×250 mm, 10 nm, hexane/ethanol/diethylamine (98:2:0.1). (R,R)-hydroxybupropion was prepared from (S)-3′-chloro-2-hydroxyl-propiophenone with 97% e.e. as determined by HPLC with chiral column, ChiralCEl GD. 4.6×250 mm, 10 nm, hexane/ethanol/diethylamine (98:2:0.1).

reactant | hexane ethanol diethylamine | CCCCCC.C(C)O.C(C)NCC
reactant | (S)-3′-chloro-2-hydroxyl-propiophenone | ClC=1C=C(C=CC1)C([C@H](C)O)=O | C9H9ClO2
solvent | EtOH | CCO | C2H6O
product | (R,R)-hydroxybupropion | C[C@@H]1[C@](OCC(N1)(C)C)(C2=CC(=CC=C2)Cl)O | C13H18ClNO2
